US05338740
H. 2-[1-(Ethyl-5,7-dimethyl-imidazo[4,5-b]pyridin-3-yl)-indan-5-yl]-benzoic acid methyl ester
A mixture of 2-ethyl-5,7-dimethyl-3-(5-tributylstannyl-indan-1-yl)-3H-imidazol[4,5-b]pyridine (224 mg, 0.41 mmol), methyl 2-iodobenzoate (131 mg, 0.5 mmol) and PdCl2 (PPh3)2 (28 mg, 0.04 mmol) was heated in anhydrous 1,4-dioxane for 20 hours. After cooling to room temperature, the reaction mixture was concentrated in vacuo and chromatographed on SiO2 -gel using a gradient of 30% EtOAc/hexanes to 50% EtOAc/hexanes to give 50 mg of a colorless oil. 1H NMR (250 MHz, CDCl3): d 7.80 (1 H, d), 7.55 (t, 1 H), 7.43 (t, 2 H), 7.30 (s, 1 H), 7.10 (d, 2 H), 6.90 (m, 2 H), 6.52 (m, 1H), 3.30 (m, 1 H), 3.15 (m, 1 H), 2.85 (q, 2 H), 2.65 (s, 3 H), 2.57 (s, 3 H), 0.90 (t, 3H.

reactant | 2-ethyl-5,7-dimethyl-3-(5-tributylstannyl-indan-1-yl)-3H-imidazol[4,5-b]pyridine | 0.41 mmol, 224 mg | C(C)C1=NC=2C(=NC(=CC2C)C)N1C1CCC2=CC(=CC=C12)[Sn](CCCC)(CCCC)CCCC
reactant | methyl 2-iodobenzoate | 0.5 mmol, 131 mg | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-[1-(Ethyl-5,7-dimethyl-imidazo[4,5-b]pyridin-3-yl)-indan-5-yl]-benzoic acid methyl ester | 50 mg | COC(C1=C(C=CC=C1)C=1C=C2CCC(C2=CC1)N1C(=NC=2C1=NC(=CC2C)C)CC)=O | C27H27N3O2
